US07375087B2
3-(β-D-Glucopyranosyloxy)-4-{[4-(3-{(S)-1-[2-hydroxy-1-(hydroxymethyl)-ethylcarbamoyl]ethylcarbamoyl}propyl)phenyl]methyl}-5-isopropyl-1H-pyrazole
To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[(1E)-3-carboxyprop-1-enyl]phenyl}methyl)-5-isopropyl-1H-pyrazole (7.13 g) in N,N-dimethylformamide (30 mL) were added 1-hydroxybenzotriazole (2.31 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (3.25 g) and benzyl (S)-2-aminopropionate (8.34 g), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate twice. The extracts were washed with water and brine successively, and dried over sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/2) to give 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{(1E)-3-[(S)-1-(benzyloxycarbonyl)ethylcarbamoyl]prop-1-enyl}phenyl)methyl]-5-isopropyl-1H-pyrazole (3.25 g). This material was dissolved in methanol (40 mL). To the solution was added 10% palladium-carbon powder (1.0 g), and the mixture was stirred at room temperature under a hydrogen atmosphere overnight. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure to give 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{3-[(S)-1-(carboxy)ethylcarbamoyl]propyl}phenyl)methyl]-5-isopropyl-1H-pyrazole (2.25 g). To a solution of the obtained 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{3-[(S)-1-(carboxy)ethylcarbamoyl]propyl}phenyl)methyl]-5-isopropyl-1H-pyrazole (0.09 g) in N,N-dimethylformamide (0.5 mL) were added 1-hydroxybenzotriazole (0.026 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.037 g) and 2-amino-1,3-propanediol (0.12 g), and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added 5 mol/L aqueous sodium hydroxide solution (0.5 mL), and the mixture was stirred at room temperature for 1 hour. Acetic acid (0.3 mL) and water (1 mL) were added to the reaction mixture. The insoluble material was removed by filtration, and the filtrate was purified by preparative reverse phase column chromatography (Shiseido CAPCELL PAK UG120 ODS, 5 μL, 120 Å, 20×50 mm, flow rate 30 mL/minute linear gradient, water/acetonitrile=90/10-10/90) to give the title compound (0.017 g).

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{3-[(S)-1-(carboxy)ethylcarbamoyl]propyl}phenyl)methyl]-5-isopropyl-1H-pyrazole | 0.09 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)CCCC(N[C@@H](C)C(=O)O)=O)C(C)C | C34H45N3O13
reactant | 1-hydroxybenzotriazole | 0.026 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.037 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 2-amino-1,3-propanediol | 0.12 g | NC(CO)CO | C3H9NO2
reactant | sodium hydroxide | 5 mol/L, 0.5 mL | [OH-].[Na+]
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | water | 1 mL | O | H2O
solvent | Acetic acid | 0.3 mL | C(C)(=O)O | C2H4O2
product | 3-(β-D-Glucopyranosyloxy)-4-{[4-(3-{(S)-1-[2-hydroxy-1-(hydroxymethyl)-ethylcarbamoyl]ethylcarbamoyl}propyl)phenyl]methyl}-5-isopropyl-1H-pyrazole | 0.017 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=CC=C(C=C1)CCCC(N[C@@H](C)C(NC(CO)CO)=O)=O)C(C)C | C29H44N4O10
